US07977331B1
To a solution of methyl 12-cyclohexyl-5,6-dihydroindolo[2,1-a]isoquinoline-9-carboxylate (337 mg, 0.93 mmol) in tetrahydrofuran (3 ml) and methanol (3 ml) was added 4N aqueous sodium hydroxide solution (3.0 ml), and the mixture was stirred at room temperature for 15 hr. The reaction mixture was acidified with 2N hydrochloric acid. The precipitated solid was collected by filtration and dried in vacuo to give 12-cyclohexyl-5,6-dihydroindolo[2,1-a]isoquinoline-9-carboxylic acid (298 mg, yield 92.3%).

reactant | methyl 12-cyclohexyl-5,6-dihydroindolo[2,1-a]isoquinoline-9-carboxylate | 0.93 mmol, 337 mg | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C=1C=CC=CC1CC2)C(=O)OC | C24H25NO2
reactant | sodium hydroxide | 4N, 3.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
product | 12-cyclohexyl-5,6-dihydroindolo[2,1-a]isoquinoline-9-carboxylic acid | 298 mg, yield 92.3% | C1(CCCCC1)C=1C=2C=CC(=CC2N2C1C=1C=CC=CC1CC2)C(=O)O | C23H23NO2
